US06002008
A mixture of 0.167 g of 4-chloro-6,7,8-trimethoxy-3-quinolinecarbonitrile, 0.12 g of m-bromoaniline, and 5 ml of ethoxyethanol was stirred under nitrogen, at reflux temperature for 30 minutes. The mixture was cooled and added to 50 ml of water. To this mixture was added sodium carbonate to pH 9. The product was collected, washed with water, dried, and washed with 10 ml of hexanes-ethyl acetate (4:1) to give 0.212 g of 4-(3-bromo-phenylamino)-6,7,8-trimethoxy-quinoline-3-carbonitrile as a solid, mp 211-213° C.; mass spectrum (EI, m/e): M 413.0377.

reactant | 4-chloro-6,7,8-trimethoxy-3-quinolinecarbonitrile | 0.167 g | ClC1=C(C=NC2=C(C(=C(C=C12)OC)OC)OC)C#N | C13H11ClN2O3
reactant | m-bromoaniline | 0.12 g | BrC=1C=C(N)C=CC1 | C6H6BrN
reactant | ethoxyethanol | 5 ml | C(C)OC(C)O | C4H10O2
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | water | 50 ml | O | H2O
product | 4-(3-bromo-phenylamino)-6,7,8-trimethoxy-quinoline-3-carbonitrile | 0.212 g | BrC=1C=C(C=CC1)NC1=C(C=NC2=C(C(=C(C=C12)OC)OC)OC)C#N | C19H16BrN3O3
